US07452901B2
2-[4-(Dimethoxy-phosphoryl)-but-2-enyl]-6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid
2-[4-(Dimethoxy-phosphoryl)-but-2-enyl]-6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid methyl ester (460 mg, 0.927 mmol) in a solution of 1:1:2 of H2O/MeOH/THF (8 mL) was stirred with LiOH.H2O (78 mg, 1.86 mmol) at ambient temperature for 12 hours. A second batch of LiOH.H2O (40 mg, 0.952 mmol) was added. The reaction mixture was stirred at room temperature for another 16 hours, after which no further progress was observed. The reaction was quenched by addition of a saturated aqueous solution of NH4Cl. The organic layer was removed in vacuo and the product was extracted with EtOAc from the aqueous layer, which had been acidified by addition of 5 drops of 2 N HCl. The product was further purified by chromatography to provide the desired product. 1H NMR (300 MHz, CDCl3) δ 1.79 (s, 3H), 2.08-2.38 (m, 4H), 2.15 (s, 3H), 2.53 (d, 1H, J=22 Hz), 2.60 (d, 1H, J=22 Hz), 2.57-2.64 (m, 1H), 3.38 (d, 2H, J=7 Hz), 3.72 (d, 6H, J=11 Hz) 3.76 (s, 3H), 5.20 (s, 2H), 5.27 (t, 1H, J=6 Hz), 5.36-5.63 (m, 2H); 31P (121.4 MHz, CDCl3) δ 30.5; MS (m/z) 481.2 [M−H]−.

reactant | 2-[4-(Dimethoxy-phosphoryl)-but-2-enyl]-6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid methyl ester | 0.927 mmol, 460 mg | COC(C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C)CC=CCP(=O)(OC)OC)=O | C24H33O9P
reactant | LiOH.H2O | 1.86 mmol, 78 mg | O[Li].O
reactant | LiOH.H2O | 0.952 mmol, 40 mg | O[Li].O
solvent | H2O MeOH THF | 8 mL | O.CO.C1CCOC1
product | 2-[4-(Dimethoxy-phosphoryl)-but-2-enyl]-6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid | COP(=O)(OC)CC=CCC(C(=O)O)CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C | C23H31O9P
